US07495103B2
To a solution of 4-tert-butyl-5-nitro-2-trimethylsilanylethynyl-phenylamine (25 g, 86 mmol) in DMF (100 mL) was added CuI (8.2 g, 43 mmol) under a nitrogen atmosphere. The mixture was heated at 135° C. in a sealed pressure flask overnight, cooled down to room temperature and filtered through a short plug of Celite. The filter cake was washed with EtOAc. The combined filtrate was washed with water, dried over Na2SO4 and concentrated. The crude product was purified by column chromatography (10-20% EtOAc/Hexane) to provide 5-tert-butyl-6-nitro-1H-indole as a yellow solid (12.9 g, 69%).

reactant | 4-tert-butyl-5-nitro-2-trimethylsilanylethynyl-phenylamine | 86 mmol, 25 g | C(C)(C)(C)C1=CC=C(C=C1[N+](=O)[O-])NC#C[Si](C)(C)C | C15H22N2O2Si
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 43 mmol, 8.2 g | [Cu]I
product | 5-tert-butyl-6-nitro-1H-indole | 12.9 g, 69% | C(C)(C)(C)C=1C=C2C=CNC2=CC1[N+](=O)[O-] | C12H14N2O2
